US03950339
[4-(p-Anisidino)-6-Methyl-2-Pyrimidinylthio]Acetonitrile
A stirred mixture of 15.0 g. (0.075 mole) of (4-chloro-6methyl-2-pyrimidinylthio)aceto nitrile, 10.0g. (0.075 mole) p-anisidine and 7.5 g. (0.075 mole) of sodium carbonate in 150 ml of ethanol was heated under reflux for five hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The oily residue was dissolved in ethyl acetate. Dilution of the ethyl acetate solution with petroleum ether and cooling in ice yielded a precipitate. This solid was collected and recrystallized from a mixture of benzene-petroleum ether to afford 7.2 g. of product, m.p. 128°-131°.

reactant | (4-chloro-6methyl-2-pyrimidinylthio)aceto nitrile | 0.075 mole | ClC1=NC(=NC(=C1)C)SCC#N | C7H6ClN3S
reactant | p-anisidine | 0.075 mole | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium carbonate | 0.075 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | [4-(p-Anisidino)-6-Methyl-2-Pyrimidinylthio]Acetonitrile | COC1=CC=C(C=C1)NC1=NC(=NC(=C1)C)SCC#N | C14H14N4OS
